US07569692B2
A mixture of a 6,6′-bis(2-methoxyphenyl)-2,2′-bipyridyl ligand (0.3 g) and pyridine hydrochloride (10 g) was heated for 4 hours at 160° C. under a nitrogen atmosphere. After cooling the reaction solution to a room temperature, chloroform (20 ml) and water (20 ml) were added to the reaction solution for separation. Thereafter, the organic layer was concentrated. Purification by silica gel chromatography (chloroform as a developing solvent) was carried out, to obtain 0.2 g of 6,6′-bis(2-hydroxyphenyl)-2,2′-bipyridyl.

reactant | 6,6′-bis(2-methoxyphenyl)-2,2′-bipyridyl | 0.3 g | COC1=C(C=CC=C1)C1=CC=CC(=N1)C1=NC(=CC=C1)C1=C(C=CC=C1)OC | C24H20N2O2
reactant | pyridine hydrochloride | 10 g | Cl.N1=CC=CC=C1
reactant | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | 20 ml | O | H2O
product | 6,6′-bis(2-hydroxyphenyl)-2,2′-bipyridyl | 0.2 g | OC1=C(C=CC=C1)C1=CC=CC(=N1)C1=NC(=CC=C1)C1=C(C=CC=C1)O | C22H16N2O2
